US08314107B2
To a stirred solution of tert-butyl 4-(7-hydroxyimidazo[1,2-a]pyridine-2-carboxamido)piperidine-1-carboxylate (0.18 g, 0.50 mmol) in toluene (4 mL) at room temperature was added diisopropyl azodicarboxylate (0.12 g, 0.6 mmol), 1-(4-(trifluoromethyl)phenyl)-piperidin-4-ol (0.12 g, 0.5 mmol), and triphenylphosphine (0.16 g, 0.6 mmol). The mixture was stirred at room temperature overnight and then concentrated under reduced pressure. The residue obtained was purified by flash chromatography (silica gel, methylene chloride/methanol/30% ammonium hydroxide=20/1/0.01) to afford tert-butyl 4-(7-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)imidazo[1,2-a]pyridine-2-carboxamido)piperidine-1-carboxylate as a off-white solid (0.13 g, 44%). 1H-NMR (CDCl3, 300 MHz): δ 7.97 (m, 2H), 7.47 (m, 2H), 7.18 (m, 1H), 6.95 (m, 2H), 6.81 (s, 1H), 6.58 (m, 1H), 4.56 (m, 1H), 4.11 (m, 3H), 3.61 (m, 2H), 3.26 (m, 2H), 2.92 (m, 2H), 2.15 (m, 2H), 2.03 (m, 4H), 1.66 (m, 2H), 1.47 (s, 9H) ppm; MS (ESI): 588.4 (M+1).

reactant | tert-butyl 4-(7-hydroxyimidazo[1,2-a]pyridine-2-carboxamido)piperidine-1-carboxylate | 0.50 mmol, 0.18 g | OC1=CC=2N(C=C1)C=C(N2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C18H24N4O4
reactant | diisopropyl azodicarboxylate | 0.6 mmol, 0.12 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 1-(4-(trifluoromethyl)phenyl)-piperidin-4-ol | 0.5 mmol, 0.12 g | FC(C1=CC=C(C=C1)N1CCC(CC1)O)(F)F | C12H14F3NO
reactant | triphenylphosphine | 0.6 mmol, 0.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(7-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)imidazo[1,2-a]pyridine-2-carboxamido)piperidine-1-carboxylate | 0.13 g, 44% | FC(C1=CC=C(C=C1)N1CCC(CC1)OC1=CC=2N(C=C1)C=C(N2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C30H36F3N5O4
